US05314880
(b) N-Methyl-N-4-methylbenzyl phenylsulphonamide
Sodium hydride (80% dispersion in oil) (0.24 g, 10 mmol) was added to a stirred solution of N-4-methylbenzyl phenylsulphonamide (2.47 g, 10 mmol) in dry THF (50 mi) under argon. After 1.5 h the grey solid of sodium hydride disappeared and a white precipitate formed. The mixture was cooled to 0° C. and treated with methyl iodide (0.62 ml, 10 mmol). The reaction was allowed to warm to ambient temperature and stirred or 16 h. Methanol (1 ml) was added and the reaction mixture evaporated to dryness. The residue was partitioned between ethyl acetate (80 ml) and water (80 ml). The organic layer was separated, washed with water (2×50 ml), dried over MgSO4, filtered and the solvent removed to give the crude product. Flash chromatography (flash silica, gradient elution 0-10% ethyl acetate in hexane) gave, after crystallisation from ethyl acetate/hexane, N-methyl N-4-methylbenzyl phenylsulphonamide (0.89 g, 34%) as a white crystalline solid.

reactant | Sodium hydride | 10 mmol, 0.24 g | [H-].[Na+]
reactant | N-4-methylbenzyl phenylsulphonamide | 10 mmol, 2.47 g | CC1=CC=C(CNS(=O)(=O)C2=CC=CC=C2)C=C1 | C14H15NO2S
reactant | methyl iodide | 10 mmol, 0.62 ml | CI | CH3I
reactant | Methanol | 1 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | N-Methyl-N-4-methylbenzyl phenylsulphonamide | CN(S(=O)(=O)C1=CC=CC=C1)CC1=CC=C(C=C1)C | C15H17NO2S
